US08211904B2
Step 3: (2-fluoro-5-{[(1R)-1-methylpropyl]oxy}phenyl)methanol
Ozone was bubbled through a −78° C. solution of 1-fluoro-4-{[(1R)-1-methylpropyl]oxy}-2-vinylbenzene (0.81 g, 4.17 mmol) in dichloromethane (27.8 ml) and MeOH (13.90 ml) until the reaction color remained blue. The reaction stirred 10 min, and then was purged with N2 for 10 min. MeOH (25 mL) was added, followed by sodium borohydride (0.237 g, 6.25 mmol). The reaction warmed to rt. After 1 h, the reaction mixture was concentrated in vacuo. The residue was purified by column chromatography on a silica gel cartridge (12% EtOAc/hexanes) to give the desired product.

reactant | Ozone | O=[O+][O-] | O3
reactant | 1-fluoro-4-{[(1R)-1-methylpropyl]oxy}-2-vinylbenzene | 4.17 mmol, 0.81 g | FC1=C(C=C(C=C1)O[C@@H](CC)C)C=C | C12H15FO
reactant | sodium borohydride | 6.25 mmol, 0.237 g | [BH4-].[Na+]
solvent | dichloromethane | 27.8 ml | ClCCl | CH2Cl2
solvent | MeOH | 13.90 ml | CO | CH4O
product | (2-fluoro-5-{[(1R)-1-methylpropyl]oxy}phenyl)methanol | FC1=C(C=C(C=C1)O[C@@H](CC)C)CO | C11H15FO2
